US07943639B2
Synthesis of 6-phenylsulfanyl-quinoline
A solution of sodium nitrite (1 g, 14 mmol) in water (6 mL) was slowly added to a stirred solution of 6-amino-quinoline (1.44 g, 10 mmol) in sulfuric acid (50%) (8 mL). The temperature was kept below 5° C. during the addition. The reaction mixture was poured into a solution of potassium hydroxide (9 g, 16 mmol) and thiophenol (1 mL, 9 mmol) in water (30 mL). The reaction mixture was refluxed for 3 h, cooled and extracted with diethyl ether. The insoluble material was eliminated by filtration. During filtration most of the material was trapped in the solid phase. The filtrate was evaporated and the residue was purified by column chromatography (SiO2, ethyl acetate:hexane, 1:2) to yield a colorless oil (100 mg, 4% PS: the low yield is due to the loss of the material during the filtration procedure). MS m/z: 238 [M+H+]. 1H NMR (270 MHz, CD3Cl) δ ppm 7.34 (m, 4H) 7.42 (m, 2H) 7.57 (dd, J=8.97, 2.11 Hz, 1H) 7.67 (d, J=2.11 Hz, 1H) 7.99 (m, 2H) 8.84 (dd, J=4.22, 1.58 Hz, 1H).

reactant | sodium nitrite | 14 mmol, 1 g | N(=O)[O-].[Na+]
reactant | 6-amino-quinoline | 10 mmol, 1.44 g | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | potassium hydroxide | 16 mmol, 9 g | [OH-].[K+]
reactant | thiophenol | 9 mmol, 1 mL | C1(=CC=CC=C1)S | C6H6S
solvent | water | 6 mL | O | H2O
solvent | sulfuric acid | 8 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 30 mL | O | H2O
product | 6-phenylsulfanyl-quinoline | C1(=CC=CC=C1)SC=1C=C2C=CC=NC2=CC1 | C15H11NS
